* SPDX-License-Identifier: Apache-2.0
* Coupling-capacitance extracted transient verification at 2.5 GT/s.
.include /foss/pdks/gf180mcuD/libs.tech/ngspice/design.ngspice
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice typical
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice res_typical
.include /work/pex/serdes_tx.pex.spice

VVDD VDD 0 3.3
VBIAS VBIAS 0 1.07
VINP INP 0 PULSE(0 3.3 100p 20p 20p 180p 400p)
VINN INN 0 PULSE(3.3 0 100p 20p 20p 180p 400p)
CLOAD_P OUTP 0 50f
CLOAD_N OUTN 0 50f
XDUT INP INN OUTP OUTN VBIAS VDD 0 serdes_tx_pex

.control
set wr_singlescale
set wr_vecnames
tran 2p 4n
let vdiff = v(OUTN)-v(OUTP)
let isupply = -i(VVDD)
wrdata /work/postlayout-wave.dat v(INP) v(INN) v(OUTP) v(OUTN) i(VVDD)
meas tran diff_high find vdiff at=1.2n
meas tran diff_low find vdiff at=1.4n
meas tran supply_current_avg avg isupply from=1n to=4n
meas tran output_floor min v(OUTP) from=1n to=4n
meas tran output_floor_n min v(OUTN) from=1n to=4n
meas tran diff_rise trig vdiff val=-0.3 rise=3 targ vdiff val=0.3 rise=3
meas tran diff_fall trig vdiff val=0.3 fall=3 targ vdiff val=-0.3 fall=3
.endc
.end
